US06352993B1
5,6-dimethyl-2-(2-methoxyethylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine hiydrochloride
After 2-methoxyethylamine(0.23 ml, 2.7 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.5 g, 1.74 mmol) in dimethylformamide, 320 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | 2-methoxyethylamine | 2.7 mmol, 0.23 ml | COCCN | C3H9NO
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)C)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(2-methoxyethylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 320 mg, Yield: 50.7% | CC=1C(=NC(=NC1C)NCCOC)N1C(C2=CC=CC=C2CC1)C | C19H26N4O
